### PR TITLE
feat: BitVec.[toFin|getMsbD]_setWidth and [getMsbD|msb]_signExtend

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR adds `BitVec.[toFin|getMsbD]_setWidth` and `[getMsb|msb]_signExtend` as well as `ofInt_toInt`.

Also correct renamed the misnamed theorem for `signExtend_eq_setWidth_of_msb_false`.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
changelog-library

**Comment by luisacicolini** [comment]
lgtm!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -498,6 +498,9 @@ theorem toInt_ofNat {n : Nat} (x : Nat) :
 @[simp] theorem ofInt_ofNat (w n : Nat) :
   BitVec.ofInt w (no_index (OfNat.ofNat n)) = BitVec.ofNat w (OfNat.ofNat n) := rfl
 
+@[simp] theorem ofInt_toInt {x : BitVec w} : BitVec.ofInt w (x.toInt) = x := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:501]:
```suggestion
@[simp] theorem ofInt_toInt {x : BitVec w} : BitVec.ofInt w x.toInt = x := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1652,16 +1673,32 @@ theorem signExtend_eq_not_setWidth_not_of_msb_true {x : BitVec w} {v : Nat} (hms
...
+  · rw [signExtend_eq_setWidth_of_msb_false hmsb]
     by_cases (i < v) <;> by_cases (i < w) <;> simp_all <;> omega
   · rw [signExtend_eq_not_setWidth_not_of_msb_true hmsb]
     by_cases (i < v) <;> by_cases (i < w) <;> simp_all <;> omega
 
+theorem getMsbD_signExtend {x : BitVec w} {v i : Nat} :
+    (x.signExtend v).getMsbD i =
+      (decide (i < v) && if v - w ≤ i then x.getMsbD (i + w - v) else x.msb) := by
+  rcases hmsb : x.msb with rfl | rfl
+  · simp [signExtend_eq_setWidth_of_msb_false hmsb, getMsbD_setWidth]
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Fixed.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -645,6 +652,20 @@ theorem getElem?_setWidth (m : Nat) (x : BitVec n) (i : Nat) :
     getLsbD (setWidth m x) i = (decide (i < m) && getLsbD x i) := by
   simp [getLsbD, toNat_setWidth, Nat.testBit_mod_two_pow]
 
+theorem getMsbD_setWidth {m : Nat} {x : BitVec n} {i : Nat} :
+    getMsbD (setWidth m x) i = (decide (m - n ≤ i) && getMsbD x (i + n - m)) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:656]: No objection on this PR, but increasingly I am skeptical that `decide inequality && boolean` is really what we want on the RHS of all these lemmas. It probably should just be `if inequality then boolean else false`. Without a mixed linear arithmetic + SAT solver, this is doing us no favours, and the `if` style makes it much easier to use `split` to get the inequalities in usable form (e.g. for `omega`).

Something to consider; it would be a big refactor.
